### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/Blocks): lemmas to handle blocks on finite sets

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This PR proves specific properties of blocks when the action is on a finite set

---

- [x] depends on: #12023 
- [x] depends on: #12049 

It is a repost of PR #12051 which has been corrupted by a wrong merge.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 1]
```diff
@@ -381,6 +395,163 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+  dsimp at hab
+  rw [hab] at ha
+  rw [Sigma.subtype_ext_iff]
+  simp only [Subtype.mk_eq_mk, Subtype.coe_mk]
+  apply And.intro _ hab
+  exact ExistsUnique.unique (hc.2 b) ⟨hx, ha⟩ ⟨hy, hb⟩
+  -- surjectivity
+  intro a
+  obtain ⟨x, ⟨hx, ha : a ∈ x⟩, _⟩ := hc.2 a
+  use ⟨⟨x, hx⟩, ⟨a, ha⟩⟩
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:419]: Please structure proofs with bullet points.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 2]
```diff
@@ -381,6 +395,163 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+    exact Set.ncard_image_of_injective B (MulAction.injective g)
+
+/-- The cardinality of a block divides the cardinality of the ambient type -/
+theorem IsBlock.ncard_of_block_divides [Finite X] [IsPretransitive G X] {B : Set X}
+    (hB : IsBlock G B) (hB_ne : B.Nonempty) :
+    Set.ncard B ∣ Nat.card X :=
+  Dvd.intro _ (hB.ncard_block_mul_ncard_orbit_eq hB_ne)
+
+/-- A too large block is equal to ⊤ -/
+theorem is_top_of_large_block [hfX : Finite X] [hGX : IsPretransitive G X] {B : Set X}
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:453]: To enable dot notation:
```suggestion
theorem IsBlock.eq_top_of_large [hfX : Finite X] [hGX : IsPretransitive G X] {B : Set X}
```

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 3]
```diff
@@ -381,6 +395,163 @@ theorem IsBlockSystem.of_normal {N : Subgroup G} [N.Normal] :
...
+  apply Set.ncard_congr (fun a ha ↦ ⟨a, ha⟩)
+  · exact fun a ha ↦ by simp only [Set.mem_univ]
+  · simp [Subtype.mk_eq_mk]
+  · exact fun ⟨a, ha⟩ _ ↦ ⟨a, ha, rfl⟩
+
+/-- The cardinality of the ambient is the product of
+  of the cardinality of a block
+  by the cardinality of the set of translates of that block -/
+theorem IsBlock.ncard_block_mul_ncard_orbit_eq
+    [Finite X] [IsPretransitive G X] {B : Set X}
```
Comment (jcommelin) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:432]: It seems that many of the following lemmas have these assumptions. Would it make sense to start a
```
namespace IsBlock

variable [Finite X] [IsPretransitive G X] {B : Set X}
```
and then also remove the `IsBlock` from the names?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:453]: I am not sure I understood what I should do…

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 3 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:432]: I did that.

Comment (semorrison) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean]: Please resolve conversations when you've made the changes, to make it easier for later reviewers to see the state of the PR.

Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean]: OK. I was waiting for Johann's approval.

**Review by YaelDillies — COMMENTED** [review]
This all feels like it should be much more direct from orbit-stabilizer-like theorems. Maybe @tb65536 has thoughts here?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 4]
```diff
@@ -468,6 +482,166 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+    intro a
+    obtain ⟨x, ⟨hx, ha : a ∈ x⟩, _⟩ := hc.2 a
+    use ⟨⟨x, hx⟩, ⟨a, ha⟩⟩
+
+theorem _root_.Set.ncard_coe {α : Type*} (s : Set α) :
+    s.ncard = Set.ncard (Set.univ : Set (Set.Elem s)) := by
+  apply Set.ncard_congr (fun a ha ↦ ⟨a, ha⟩)
+  · exact fun a ha ↦ by simp only [Set.mem_univ]
+  · simp [Subtype.mk_eq_mk]
+  · exact fun ⟨a, ha⟩ _ ↦ ⟨a, ha, rfl⟩
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean]: Yes, but #find_home! did not find any which was appropriate.
I put the second lemma in Mathlib/Data/Set
For the first one, any place I thought of required to add some import and I have no clue about which place is best.

File: Mathlib/Data/Set/Card.lean [hunk 5]
```diff
@@ -721,6 +721,13 @@ theorem ncard_congr {t : Set β} (f : ∀ a ∈ s, β) (h₁ : ∀ a ha, f a ha
   simp_rw [← Nat.card_coe_set_eq]
   exact Nat.card_congr (Equiv.ofBijective f' hbij)
 
+theorem ncard_coe {α : Type*} (s : Set α) :
+    s.ncard = Set.ncard (Set.univ : Set (Set.Elem s)) := by
+  apply Set.ncard_congr (fun a ha ↦ ⟨a, ha⟩)
+  · exact fun a ha ↦ by simp only [Set.mem_univ]
+  · simp [Subtype.mk_eq_mk]
+  · exact fun ⟨a, ha⟩ _ ↦ ⟨a, ha, rfl⟩
```
Comment (tb65536) [inline Mathlib/Data/Set/Card.lean:729]: Is this lemma used anywhere in the PR? If not, you could move it to a separate PR.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 6]
```diff
@@ -21,12 +24,46 @@ Given `SMul G X`, an action of a type `G` on a type `X`, we define
...
+    dsimp at hab
+    rw [hab] at ha
+    rw [Sigma.subtype_ext_iff]
+    simp only [Subtype.mk_eq_mk, Subtype.coe_mk]
+    apply And.intro _ hab
+    exact ExistsUnique.unique (hc.2 b) ⟨hx, ha⟩ ⟨hy, hb⟩
+  · -- surjectivity
+    intro a
+    obtain ⟨x, ⟨hx, ha : a ∈ x⟩, _⟩ := hc.2 a
+    use ⟨⟨x, hx⟩, ⟨a, ha⟩⟩
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:65]: Is this lemma used anywhere in the PR? If not, you could move it to a separate PR.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 7]
```diff
@@ -468,6 +505,137 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
 
 end Stabilizer
 
+section Finite
+
+namespace IsBlock
+
+variable [IsPretransitive G X] [Finite X] {B : Set X} (hB : IsBlock G B)
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:512]: The first three theorems do not require `[Finite X]`.

File: Mathlib/Data/Set/Card.lean (hunk 5 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Data/Set/Card.lean:729]: You're right. I deleted them.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:65]: In fact, I don't use it anymore. Thanks for noting.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 7 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:512]: Good point. I deleted the hypothesis and only add it for the lemmas that need it.

File: Mathlib/GroupTheory/Index.lean [hunk 8]
```diff
@@ -468,6 +470,7 @@ lemma _root_.AddSubgroup.relindex_toSubgroup {G : Type*} [AddGroup G] (H K : Add
     (AddSubgroup.toSubgroup H).relindex (AddSubgroup.toSubgroup K) = H.relindex K :=
   rfl
 
+
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean:473]: This line is extra.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 9]
```diff
@@ -470,6 +485,109 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+    | inr h =>
+      obtain ⟨a, ha⟩ := h; rw [ha]; exact Set.subsingleton_singleton
+  cases Set.eq_empty_or_nonempty B with
+  | inl h => rw [h, Set.ncard_empty]; norm_num
+  | inr h =>
+    rw [← hB.ncard_block_mul_ncard_orbit_eq h, lt_iff_not_ge] at hB'
+    rw [← not_le]
+    exact fun hb ↦ hB' (Nat.mul_le_mul_right _ hb)
+
+-- TODO : Is the assumption B.finite necessary ?
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:544]: I think it is necessary. If you start the proof with the reversible steps
```
  rw [mk_subset]
  intro g x h1 h2 y h3
  obtain ⟨gx, rfl⟩ := exists_smul_eq G a x
  obtain ⟨gy, rfl⟩ := exists_smul_eq G a y
  simp only [Set.mem_smul_set_iff_inv_smul_mem, Set.mem_iInter] at h1 h2 h3 ⊢
```
then you get the goal state
```
B : Set X
a : X
g gx gy : G
h1 : ∀ (i : G), i⁻¹ • a ∈ B → i⁻¹ • gx • a ∈ B
h2 : ∀ (i : G), i⁻¹ • a ∈ B → i⁻¹ • g⁻¹ • gx • a ∈ B
h3 : ∀ (i : G), i⁻¹ • a ∈ B → i⁻¹ • g⁻¹ • gy • a ∈ B
⊢ ∀ (i : G), i⁻¹ • a ∈ B → i⁻¹ • gy • a ∈ B
```
which cannot be proven without further assumptions: `h1` lets you right-multiply by `gx`, `h2` lets you right-multiply by `g⁻¹ * gx`, `h3` lets you right-multiply by `g⁻¹ * gy`, but together these do not let you right-multiply by `gy`. You need some sort of finiteness or periodicity so that you can (for instance) right multiply by `gx * (g⁻¹ * gx)⁻¹ * (g⁻¹ * gy)`.

I think a counterexample might be `G = ℤ` acting on `ℤ` by translation, `B = ℕ`, and `a = 0`.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 10]
```diff
@@ -200,12 +215,12 @@ theorem isBlock_orbit (a : X) : IsBlock G (orbit G a) :=
 variable (X)
 
 /-- The full set is a (trivial) block -/
-theorem isFixedBlock_top : IsFixedBlock G (⊤ : Set X) :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:203]: Please add the deprecated aliases

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 11]
```diff
@@ -470,6 +485,109 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+    obtain ⟨k, hk : k • b = a⟩ := exists_smul_eq G b a
+    apply Set.Finite.subset (Set.Finite.map _ hfB) (hB'₀ k ⟨b, hb, hk⟩)
+  have hag : ∀ g : G, a ∈ g • B' → B' ≤ g • B' :=  by
+    intro g hg x hx
+    -- a = g • b; b ∈ B'; a ∈ k • B → b ∈ k • B
+    simp only [B', Set.mem_iInter, Set.mem_smul_set_iff_inv_smul_mem,
+      smul_smul, ← mul_inv_rev] at hg hx ⊢
+    exact fun _ ↦ hx _ ∘ hg _
+  have hag' : ∀ g : G, a ∈ g • B' → B' = g • B' := by
+    intro g hg
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:567]: You could also write:
```suggestion
  have hag' (g : G) (hg : a ∈ g • B') : B' = g • B' := by
```

File: Mathlib/GroupTheory/Index.lean [hunk 12]
```diff
@@ -559,6 +561,19 @@ end FiniteIndex
 
 end Subgroup
 
+namespace MulAction
+
+theorem index_stabilizer (G : Type*) {X : Type*} [Group G] [MulAction G X] (x : X) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Index.lean:566]: I think you can use `variable` here

File: Mathlib/GroupTheory/Index.lean [hunk 13]
```diff
@@ -559,6 +561,19 @@ end FiniteIndex
...
+    (stabilizer G x).index = (orbit G x).ncard :=
+  (Nat.card_congr (MulAction.orbitEquivQuotientStabilizer G x)).symm.trans
+    (Set.Nat.card_coe_set_eq (orbit G x))
+
+theorem index_stabilizer' (G : Type*) {X : Type*} [Group G] [MulAction G X] [IsPretransitive G X]
```
Comment (Ruben-VandeVelde) [inline Mathlib/GroupTheory/Index.lean:571]: There's recently been some discussion against primes in names - can you try thinking of another way to distinguish these two?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 14]
```diff
@@ -470,6 +485,109 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
 
 end Stabilizer
 
+section Finite
+
+namespace IsBlock
+
+variable [IsPretransitive G X] {B : Set X}
```
[the remark this answers is not in the document]
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:492]: bot fix style

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:203]: Why not, but nobody ever imported that file, so I do not really see the point of adding a deprecated alias.

File: Mathlib/GroupTheory/Index.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/Index.lean]: good point, I renamed it `index_stabilizer_of_transitive`

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 10 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:203]: Anyway, I did it. (Maybe that will help me…)

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 15]
```diff
@@ -188,6 +203,7 @@ theorem IsInvariantBlock.isFixedBlock {B : Set X} (hfB : IsInvariantBlock G B) :
 theorem IsInvariantBlock.isBlock {B : Set X} (hfB : IsInvariantBlock G B) :
     IsBlock G B :=
   hfB.isFixedBlock.isBlock
+@[deprecated (since := "2024-09-14")] alias isFixedBlock_top := IsInvariantBlock.isBlock
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:206]: Do you mean to say `alias isFixedBlock_top := isFixedBlock_univ`?

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 16]
```diff
@@ -470,6 +486,111 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+
+theorem ncard_block_eq_relindex (hB : IsBlock G B) {x : X} (hx : x ∈ B) :
+    B.ncard = (stabilizer G x).relindex (stabilizer G B) := by
+  have key : (stabilizer G x).subgroupOf (stabilizer G B) = stabilizer (stabilizer G B) x := by
+    ext; rfl
+  rw [Subgroup.relindex, key, index_stabilizer, hB.orbit_stabilizer_eq hx]
+
+/-- The cardinality of the ambient is the product of
+  of the cardinality of a block
+  by the cardinality of the set of translates of that block -/
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:503]:
```suggestion
/-- The cardinality of the ambient space is the product of the cardinality of a block
  by the cardinality of the set of translates of that block -/
```

**Review by tb65536 — APPROVED** [review]

File: Mathlib/GroupTheory/GroupAction/Blocks.lean (hunk 15 above)
Comment (AntoineChambert-Loir) [reply Mathlib/GroupTheory/GroupAction/Blocks.lean:206]: Yes, and it was not at the right place.

File: Mathlib/GroupTheory/GroupAction/Blocks.lean [hunk 17]
```diff
@@ -470,6 +486,110 @@ def block_stabilizerOrderIso [htGX : IsPretransitive G X] (a : X) :
...
+
+variable [IsPretransitive G X] {B : Set X}
+
+theorem ncard_block_eq_relindex (hB : IsBlock G B) {x : X} (hx : x ∈ B) :
+    B.ncard = (stabilizer G x).relindex (stabilizer G B) := by
+  have key : (stabilizer G x).subgroupOf (stabilizer G B) = stabilizer (stabilizer G B) x := by
+    ext; rfl
+  rw [Subgroup.relindex, key, index_stabilizer, hB.orbit_stabilizer_eq hx]
+
+/-- The cardinality of the ambient is the product of of the cardinality of a block
```
Comment (tb65536) [inline Mathlib/GroupTheory/GroupAction/Blocks.lean:501]:
```suggestion
/-- The cardinality of the ambient space is the product of the cardinality of a block
```

**Review by tb65536 — APPROVED** [review]

**Comment by tb65536** [comment]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge

File: Mathlib/GroupTheory/Index.lean [hunk 18]
```diff
@@ -3,6 +3,8 @@ Copyright (c) 2021 Thomas Browning. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Thomas Browning
 -/
+import Mathlib.Algebra.BigOperators.GroupWithZero.Finset
+import Mathlib.Data.Set.Card
 import Mathlib.Data.Finite.Card
 import Mathlib.Algebra.BigOperators.GroupWithZero.Finset
```
Comment (tb65536) [inline Mathlib/GroupTheory/Index.lean:9]:
```suggestion
```

**Comment by tb65536** [comment]
maintainer merge

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
